US04895873
Preparation of calcium pentavalproate.
29.6 g of pulverized calcium hydroxide were stirred in a solution of 288.4 g of valproic acid in 1300 ml of acetone and the mixture was refluxed for 2 hours.

reactant | calcium hydroxide | 29.6 g | [OH-].[Ca+2].[OH-]
reactant | valproic acid | 288.4 g | C(C(CCC)CCC)(=O)O | C8H16O2
solvent | acetone | 1300 ml | CC(=O)C | C3H6O
product | calcium pentavalproate | C(C(CCC)CCC)(=O)[O-].C(C(CCC)CCC)(=O)O.C(C(CCC)CCC)(=O)O.C(C(CCC)CCC)(=O)O.C(C(CCC)CCC)(=O)[O-].[Ca+2] | InChI=1S/5C8H16O2.Ca/c5*1-3-5-7(6-4-2)8(9)10;/h5*7H,3-6H2,1-2H3,(H,9,10);/q;;;;;+2/p-2
